US05280031
1-Aminocarbonyl-4-nitroxypiperidine
trans-N-(1-aminocarbonylpiperidin-4-yl)-4-nitroxycyclohexanecarboxylic acid amide from trans-4-nitroxycyclohexanecarboxylic acid piperidin-4-ylamide; yield 25% of theory; solvent: ethanol; m.p. 187°-188° C.

reactant | trans-N-(1-aminocarbonylpiperidin-4-yl)-4-nitroxycyclohexanecarboxylic acid amide | NC(=O)N1CCC(CC1)NC(=O)[C@@H]1CC[C@H](CC1)O[N+](=O)[O-] | C13H22N4O5
reactant | trans-4-nitroxycyclohexanecarboxylic acid piperidin-4-ylamide | N1CCC(CC1)NC(=O)[C@@H]1CC[C@H](CC1)O[N+](=O)[O-] | C12H21N3O4
solvent | ethanol | C(C)O | C2H6O
product | 1-Aminocarbonyl-4-nitroxypiperidine | yield 25% | NC(=O)N1CCC(CC1)O[N+](=O)[O-] | C6H11N3O4
